US07834051B2
Benzyl(4S)-4-ethyl-2,5-dioxo-1,3-oxazolidine-3-carboxylate
A solution of (4S)-4-ethyl-1,3-oxazolidine-2,5-dione (69.57 g) and benzyl chloroformate (101.1 g) in tetrahydrofuran (800 mL) was cooled to 0° C., N-methylmorpholine (81.74 g) was added dropwise, and the mixture was stirred at 0° C. for 2 hr. A 4 mol/L hydrogen chloride-ethyl acetate solution (86.9 mL) was added dropwise at 0° C. to the reaction mixture, and the precipitated morpholine hydrochloride was filtered off with celite. The filtrate was concentrated under reduced pressure to give the title compound as a pale-yellow oil (yield: 91.58 g, 52%).

reactant | (4S)-4-ethyl-1,3-oxazolidine-2,5-dione | 69.57 g | C(C)[C@@H]1NC(OC1=O)=O | C5H7NO3
reactant | benzyl chloroformate | 101.1 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | N-methylmorpholine | 81.74 g | CN1CCOCC1 | C5H11NO
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 86.9 mL | C(C)(=O)OCC.Cl
solvent | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
product | Benzyl(4S)-4-ethyl-2,5-dioxo-1,3-oxazolidine-3-carboxylate | yield: 91.58 g, 52% | C(C)[C@@H]1N(C(OC1=O)=O)C(=O)OCC1=CC=CC=C1 | C13H13NO5
